US07241791B2
Step 1: 7-fluoro-3-(4-methoxy-2-methylphenyl)-1-propyl-1H-indazole
Prepared according to Method D step B from 7-fluoro-3-(4-methoxy-2-methylphenyl)-1H-indazole (0.300 g, 1.10 mmol), sodium hydride (60% in oil, 0.058 g, 1.50 mmol) and 2-iodopropane (0.20 mL, 2.00 mmol) to give the title compound (0.279 g) as a white solid.

reactant | 7-fluoro-3-(4-methoxy-2-methylphenyl)-1H-indazole | 1.10 mmol, 0.300 g | FC=1C=CC=C2C(=NNC12)C1=C(C=C(C=C1)OC)C | C15H13FN2O
reactant | sodium hydride | 1.50 mmol, 0.058 g | [H-].[Na+]
reactant | 2-iodopropane | 2.00 mmol, 0.20 mL | IC(C)C | C3H7I
product | 7-fluoro-3-(4-methoxy-2-methylphenyl)-1-propyl-1H-indazole | 0.279 g | FC=1C=CC=C2C(=NN(C12)CCC)C1=C(C=C(C=C1)OC)C | C18H19FN2O
